US07541473B2
A solution of 4.81 8 (0.01747 mol) of 2-[1-(1H-inden-3-yl)-1-methyl-4-pentenyl]pyridine in 60 ml of tetrahydrofuran was cooled to −100° C. 11.5 ml of a 15% strength n-butyllithium solution in hexane (0.01834 mol) were slowly added dropwise. After the addition was complete, the reaction mixture was stirred at −100° C. for a further 1 hour. The mixture was subsequently allowed to warm to room temperature. After stirring for a further 2 hour, the solution was cooled to 60° C. and 7.07 g (0.0189 mol) of chromium trichloride tris(tetrahydrofuran) were added while stirring. The mixture was allowed to warm slowly to room temperature and was subsequently stirred at room temperature for a further 10 hours. The solid which had precipitated was filtered off, washed with diethyl ether and dried under reduced pressure. Recrystallization from a mixture of dichloromethane and diethyle ether gave 2.5 g of (3-(2-pyridyl-1-methyl-4-pentenyl)indenyl)chromium dichloride (36%).

reactant | 2-[1-(1H-inden-3-yl)-1-methyl-4-pentenyl]pyridine | C1C=C(C2=CC=CC=C12)C(CCC=C)(C)C1=NC=CC=C1 | C20H21N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.01834 mol | CCCCCC | C6H14
reactant | chromium trichloride tris(tetrahydrofuran) | 0.0189 mol, 7.07 g | O1CCCC1.O1CCCC1.O1CCCC1.[Cl-].[Cl-].[Cl-].[Cr+3]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (3-(2-pyridyl-1-methyl-4-pentenyl)indenyl)chromium dichloride | 2.5 g, 36% | [Cl-].[Cl-].N1=C(C=CC=C1)C(CCC=C)(C)C1=CC(C2=CC=CC=C12)[Cr+2] | InChI=1S/C20H20N.2ClH.Cr/c1-3-4-14-20(2,19-11-7-8-15-21-19)18-13-12-16-9-5-6-10-17(16)18;;;/h3,5-13,15H,1,4,14H2,2H3;2*1H;/q;;;+2/p-2
